US06881733B1
1-(tert-butoxycarbonyl)-2-methyl-4-(5-fluorobenzofur-7-yl)-1,2,5,6-tetrahydropyridine
A flask purged of oxygen and under a nitrogen atmosphere was charged with 0.104 gm (0.482 mMol) 5-fluoro-7-bromobenzofuran, 0.184 gm (0.723 mMol) bis(pinacolato)di-boron, 0.0043 gm (0.0024 mMol) palladium(II) chloride, 0.016 gm (0.0029 mMol) 1,1′-bis(diphenylphosphino)ferrocene, 0.142 gm (1.45 mMol) potassium acetate, and 3 mL toluene. This mixture was heated at 90° C. for 5 hours and was then poured into 150 mL diethyl ether and filtered through a bed of celite. The filtrate was concentrated under reduced pressure to provide a dark residue. This material was dissolved in 3 mL tetrahydrofuran and the resulting solution purged of oxygen and placed under a nitrogen atmosphere. To this solution were added 0.028 gm (0.0024 mMol) tetrakis(triphenylphosphino)palladium(0), 0.153 gm (0.723 mMol) potassium phosphate, and 0.15 gm (0.434 mMol) 1-(tert-butoxycarbonyl)-2-methyl-4-trifluoromethylsulfonyloxy-1,2,5,6-tetrahydropyridine. The resulting mixture was stirred at reflux for 3.5 hours and was then charged with an additional 0.5 equivalents of 1-(tert-butoxycarbonyl)-2-methyl-4-trifluoromethylsulfonyloxy-1,2,5,6-tetrahydropyridine. The mixture was stirred at reflux for an additional 1.5 hours and was then poured into 150 mL diethyl ether. The mixture was filtered through a bed of celite and the filtrate concentrated under reduced pressure. The residue was dissolved in 2 mL dichloromethane and the solution was subjected to silica gel chromatography, eluting with a gradient of hexane containing 0-5% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.10 gm (62%) of the desired compound.

reactant | 5-fluoro-7-bromobenzofuran | 0.482 mMol, 0.104 gm | FC=1C=C(C2=C(C=CO2)C1)Br | C8H4BrFO
reactant | potassium acetate | 1.45 mMol, 0.142 gm | C(C)(=O)[O-].[K+]
reactant | potassium phosphate | 0.723 mMol, 0.153 gm | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-(tert-butoxycarbonyl)-2-methyl-4-trifluoromethylsulfonyloxy-1,2,5,6-tetrahydropyridine | 0.434 mMol, 0.15 gm | C(C)(C)(C)OC(=O)N1C(C=C(CC1)OS(=O)(=O)C(F)(F)F)C | C12H18F3NO5S
reactant | 1-(tert-butoxycarbonyl)-2-methyl-4-trifluoromethylsulfonyloxy-1,2,5,6-tetrahydropyridine | 0.5 equivalents | C(C)(C)(C)OC(=O)N1C(C=C(CC1)OS(=O)(=O)C(F)(F)F)C | C12H18F3NO5S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | palladium(II) chloride | 0.0024 mMol, 0.0043 gm | [Pd](Cl)Cl
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0029 mMol, 0.016 gm | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tetrakis(triphenylphosphino)palladium(0) | 0.0024 mMol, 0.028 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(tert-butoxycarbonyl)-2-methyl-4-(5-fluorobenzofur-7-yl)-1,2,5,6-tetrahydropyridine | 0.10 gm, 62% | C(C)(C)(C)OC(=O)N1C(C=C(CC1)C1=CC(=CC=2C=COC21)F)C | C19H22FNO3
